* PFD Testbench - Constant Phase Difference (f_out leads)
.lib /opt/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /opt/pdk/sky130B/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

* --- Power Supply Sources ---
Vcc VDD GND 1.8v

* --- Input Clocks (Static 2ns Phase Shift: f_out leads) ---
V2 f_clk_in GND pulse(0 1.8v 7n 60p 60p 50n 100n)  
V3 f_out    GND pulse(0 1.8v 5n 60p 60p 50n 100n)  

* --- PFD Subcircuit ---
.subckt PFD f_clk_in f_out up down VDD GND
    x11 net12 net9 net17 net15 GND GND VDD VDD net14 sky130_fd_sc_hd__nand4_1
    x12 net23 net22 GND GND VDD VDD net9  sky130_fd_sc_hd__nand2_1
    x13 f_out GND GND VDD VDD net21 sky130_fd_sc_hd__inv_1
    x14 net11 net12 net14 GND GND VDD VDD net23 sky130_fd_sc_hd__nand3_1
    x15 net14 net15 net19 GND GND VDD VDD net20 sky130_fd_sc_hd__nand3_1
    x16 net9 net13 GND GND VDD VDD net12 sky130_fd_sc_hd__nand2_1
    x17 net12 net14 GND GND VDD VDD net13 sky130_fd_sc_hd__nand2_1
    x18 net14 net15 GND GND VDD VDD net16 sky130_fd_sc_hd__nand2_1
    x19 net16 net17 GND GND VDD VDD net15 sky130_fd_sc_hd__nand2_1
    x20 net21 net20 GND GND VDD VDD net17 sky130_fd_sc_hd__nand2_1
    x21 f_clk_in GND GND VDD VDD net22 sky130_fd_sc_hd__inv_1
    x22 net9 GND GND VDD VDD net10 sky130_fd_sc_hd__inv_1
    x23 net10 GND GND VDD VDD net11 sky130_fd_sc_hd__inv_1
    x24 net17 GND GND VDD VDD net18 sky130_fd_sc_hd__inv_1
    x25 net18 GND GND VDD VDD net19 sky130_fd_sc_hd__inv_1
    x26 net23 GND GND VDD VDD up    sky130_fd_sc_hd__inv_1
    x27 net20 GND GND VDD VDD down  sky130_fd_sc_hd__inv_1
.ends PFD

Xpfd1 f_clk_in f_out up down VDD GND PFD

C1 up   GND 6f
C2 down GND 6f

.control
tran 0.1ns 500n
plot v(up)+2 v(f_clk_in) v(down)+4 v(f_out)
.endc

.GLOBAL GND
.end
